US09428508B2
A mixture of 4-(3-((tert-butyldimethylsilyloxy)methyl)-4-nitrophenyl)morpholine (4.0 g, 0.11 mol), Raney Ni (1.0 g) in methanol (250 mL) was stirred under an atmosphere of hydrogenated (1.0 atm) at room temperature for 1 hour. The catalyst was removed by filtration and the filtrate was evaporated to give the product 2-((tert-butyldimethylsilyloxy)methyl)-4-morpholinoaniline (3.48 g, yield 95.1%). 1H NMR (400 MHz, CDCl3) δ ppm 6.72-6.76 (m, 2H), 6.62-6.64 (d, 1H, J=8.0 Hz), 4.66 (s, 2H), 3.92 (s, 2H), 3.84-3.86 (t, 4H, J=4.4 Hz), 3.00-3.03 (t, 4H, J=4.8 Hz), 0.90-0.91 (m, 9H), 0.08-0.09 (m, 6H).

reactant | 4-(3-((tert-butyldimethylsilyloxy)methyl)-4-nitrophenyl)morpholine | 0.11 mol, 4.0 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1[N+](=O)[O-])N1CCOCC1 | C17H28N2O4Si
solvent | methanol | 250 mL | CO | CH4O
catalyst | Ni | 1.0 g | [Ni] | Ni
product | 2-((tert-butyldimethylsilyloxy)methyl)-4-morpholinoaniline | 3.48 g, yield 95.1% | [Si](C)(C)(C(C)(C)C)OCC1=C(N)C=CC(=C1)N1CCOCC1 | C17H30N2O2Si
